US04517384
2-(Perfluorooctyl)ethanethiol (RF =C8F17, 4.80 g, 10.0 mmle) and 1,2-dichloroethane (29.67 g, 300 mmole) and 10 ml of water was stirred by magnet bar under nitrogen at ambient temperature, while sodium hydroxide (0.67 g, 16.7 mmole) in 20 ml of water was added dropwise during a half hour. An exotherm carried the temperature from 24.0° to 25.2°. A thick, white slurry was formed. After 5 hours of stirring at 23.5°, the white slurry had not separated into two liquid layers as in the procedures used above. Stirring was continued for 29 hours and a sample removed for analysis. After 39 hours the thick white paste was made acidic by the addition of 5.0 ml of 6N hydrochloric acid, and the white solid collected on a Buchner funnel, and washed with water. When dry the solid weighed 3.45 g, mp (sinter 82°) 83°-88°, 70% of theory for C8F17CH2CH2SCH2CH2SCH2CH2C8F17. A 1.00-g sample was recrystallized from hot chloroform, that was first filtered while hot, from insoluble salt; 0.54 g, mp (sinter 90°) 92°-94°. The filtrate deposited 0.26 g of less pure solid. The original filtrate containing water and 1,2-dichloroethane (above) was separated into layers, and the organic layer evapd off to give white solid, mp 30°-33°, 1.18 g, 21.7% of theory for C8F17CH2CH2SCH2CH2Cl.

reactant | 2-(Perfluorooctyl)ethanethiol | 4.80 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCS)F | C10H5F17S
reactant | 1,2-dichloroethane | 300 mmole, 29.67 g | ClCCCl | C2H4Cl2
reactant | sodium hydroxide | 16.7 mmole, 0.67 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | C8F17CH2CH2SCH2CH2Cl | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCSCCCl | C12H8ClF17S
